US08791123B2
Step A: Preparation of ethyl 5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate
Ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B; 0.50 g, 2.22 mmol), (R)-3-fluoro-5-(pyrrolidin-2-yl)pyridine dihydrochloride (0.53 g, 2.22 mmol) and diisopropylethylamine (1.46 mL, 8.86 mmol) were combined in isopropanol (2 mL) and heated at 95° C. for 70 hours. The crude product was purified by reverse phase chromatography, eluting with 0-50% acetonitrile/water to yield the title compound (540 mg, 68.6% yield). MS (apci) m/z=356.0 (M+H).

reactant | Ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 2.22 mmol, 0.50 g | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | (R)-3-fluoro-5-(pyrrolidin-2-yl)pyridine dihydrochloride | 2.22 mmol, 0.53 g | Cl.Cl.FC=1C=NC=C(C1)[C@@H]1NCCC1
reactant | diisopropylethylamine | 8.86 mmol, 1.46 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | ethyl 5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 540 mg, 68.6% yield | FC=1C=C(C=NC1)C1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C18H18FN5O2
